US09145409B2
Intermediate 47. Methyl 5-((4-(hydroxy(phenyl)methyl)phenoxy)methyl)furan-2-carboxylate (I47)
A solution of methyl 5-((4-benzoylphenoxy)methyl)furan-2-carboxylate (330 mg, 1.0 mmol) in methanol (5 mL) and THF (5 mL) was cooled to 0° C. NaBH4 (58 mg, 1.53 mmol) was added in one portion and the reaction was stirred at 0° C. for 2 hours. The reaction was quenched by addition of water (0.75 mL). The mixture was stirred for 10 minutes and the majority of the solvent was removed in vacuo. The residue was partitioned between EtOAc and water and the aqueous phase was extracted twice with EtOAc. The combined organic phases were washed with brine, dried over MgSO4, filtered and the solvent was removed in vacuo to give the title compound (325 mg, 96.1%) as a yellow oil.

reactant | methyl 5-((4-benzoylphenoxy)methyl)furan-2-carboxylate | 1.0 mmol, 330 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1 | C20H16O5
reactant | NaBH4 | 1.53 mmol, 58 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 5-((4-(hydroxy(phenyl)methyl)phenoxy)methyl)furan-2-carboxylate | 325 mg, 96.1% | OC(C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1)C1=CC=CC=C1 | C20H18O5
